US06248755B1
Step A: 1-(4-(Imidazo[1,5-a]pyridin-3-yl)piperidin-1-yl)ethanone
To a solution of 2-(aminomethyl)pyridine (3.17 g, 29.3 mmol), 1-acetylpiperidine-4-carboxylic acid (5.02 g, 29.3 mmol) and HOBT (4.78 g, 35.2 mmol) in 30 mL of CH2Cl2 was added EDC (8.43 g, 44.0 mmol) at rt. After stirring at rt overnight, the reaction mixture was diluted with methylene chloride and washed with aqueous sodium bicarbonate followed by brine. The organic phase was dried over anhydrous MgSO4. Concentration under reduced pressure afforded a viscous oil, which was dissolved in polyphosphoric acid (5 mL). The mixture was heated at ˜120° C. for 18 h. After cooling to rt, the syrup was poured onto ice and water was added to keep the solution temperature below 10° C. The resulting dark brown solution was basified with ammonium hydroxide. Aqueous layer was extracted with EtOAC (3×). The combined organic phase was washed with brine and dried over anhydrous MgSO4. Concentration under reduced pressure afforded 761 mg of the title compound as a viscous oil. 1H NMR (400 MHz, CDCl3): δ 1.80˜2.20 (m, 6H), 2.88˜2.95 (m, 1H), 3.30˜3.34 (m, 2H), 4.00˜4.04 (br d, 1H), 4.62˜4.65 (br d, 1H), 6.58 (dt, J=6.8, 1.1 Hz, 1H), 6.68 (dt, J=6.4, 0.7 Hz, 1H), 7.38 (s, 1H), 7.44 (d, J=9.2 Hz, 1H), 7.79 (dd, J=7.3, 0.8 Hz, 1H).

reactant | 2-(aminomethyl)pyridine | 29.3 mmol, 3.17 g | NCC1=NC=CC=C1 | C6H8N2
reactant | 1-acetylpiperidine-4-carboxylic acid | 29.3 mmol, 5.02 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | HOBT | 35.2 mmol, 4.78 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 44.0 mmol, 8.43 g
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(4-(Imidazo[1,5-a]pyridin-3-yl)piperidin-1-yl)ethanone | 761 mg | C=1N=C(N2C1C=CC=C2)C2CCN(CC2)C(C)=O | C14H17N3O
